US07402606B2
Methylisocyanate (0.472 mL, 8.00 mmol) was added to a slurry of tert-butyl (1S)-5-amino-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate (3.03 g, 8.00 mmol) at 0° C. in anhydrous tetrahydrofuran (60 mL) under nitrogen. The mixture was stirred at 0° C. for 1 h, during which time all solids dissolved. The cold bath was then removed, and the solution was stirred overnight. Volatiles were removed under vacuum, and the resulting foam was further purified by column chromatography on silica gel. Elution with a gradient from 50% to 75% acetone in hexane afforded tert-butyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-{[(methylamino)carbonyl]amino}pentylcarbamate as a white solid after drying under vacuum (3.00 g, 86%). 1H NMR (300 MHz, DMSO-d6) δ 8.06-8.01 (m, 1H); 7.38-7.18 (m, 5H); 6.40 (d, J=10 Hz) and 6.08 (d, J=9 Hz) total 1H, 5.86-5.75 (m, 1H); 5.71-5.51 (m, 2H); 5.01-4.91 (m, 1H); 3.94 (br s) and 3.87 (br s) total 1H, 3.79-3.64 (m, 1H); 3.01-2.81 (m, 2H); 2.54 (d, J=5 Hz, 3H); 1.52-1.16 (m, 18H). ES-LCMS m/z 437 (M+H).

reactant | Methylisocyanate | 8.00 mmol, 0.472 mL | CN=C=O | C2H3NO
reactant | tert-butyl (1S)-5-amino-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 8.00 mmol, 3.03 g | NCCCC[C@@H](C(C(N[C@H](C)C1=CC=CC=C1)=O)O)NC(OC(C)(C)C)=O | C20H33N3O4
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | tert-butyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-{[(methylamino)carbonyl]amino}pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)NC)NC(OC(C)(C)C)=O | C22H36N4O5
